US04666915
A mixture of ethyl 1,6-dihydro-2-methylthio-6-oxo-5-pyrimidinecarboxylate (4.2 g) and 2-propoxyaniline (3.5 g) is heated with stirring without a solvent at 120° C. for 1 hour. After cooling, methanol is added to the reaction mixture in order to pulverize the solid, and then the product is collected by filtration and recrystallized from a mixture of DMF and water to give ethyl 1,6-dihydro-2-(2-propoxyanilino)-6-oxo-5-pyrimidinecarboxylate (4.5 g). M.p. 198°-200° C.

reactant | ethyl 1,6-dihydro-2-methylthio-6-oxo-5-pyrimidinecarboxylate | 4.2 g | CSC=1NC(C(=CN1)C(=O)OCC)=O | C8H10N2O3S
reactant | 2-propoxyaniline | 3.5 g | C(CC)OC1=C(N)C=CC=C1 | C9H13NO
solvent | methanol | CO | CH4O
product | ethyl 1,6-dihydro-2-(2-propoxyanilino)-6-oxo-5-pyrimidinecarboxylate | 4.5 g | C(CC)OC1=C(NC=2NC(C(=CN2)C(=O)OCC)=O)C=CC=C1 | C16H19N3O4
